Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left leg weakness new frontal mass
 
Major Surgical or Invasive Procedure:
S/P Cranitomy for tumor removal

 
History of Present Illness:
___ well known for long h/o metastatic ovarian cancer; has 
been undergoing numerous chemotherapies; also developed multiple 

myeloma for which she has been treated with steroids. Over the 
past few weeks, she developed general weakness, clearly 
proeminent on her left side, involving both arm and leg; 
weakness 
has been worsening to the point that she had multiple "falls" to 

the ground. Steroids have been held to r/o steroid induced 
myelopathy. Weakness has nonetheless been progressing and she 
was 
referred to the ED by her oncologist. Head CT shows large Right 
frontal mass; MRI confirmed a large cystic mass in the right 
premotor region.

 
Past Medical History:
h/o metastatic ovarian cancer, with progression of 
retroperitoneal lymphadenopathies, possible new rib and lung 
metastasis; myeloma;  

 
Social History:
___
Family History:
There is breast cancer in the family. She has 
three brothers and three sisters. 

 
Physical Exam:
PHYSICAL EXAMINATION: 
GENERAL: The patient is alert, very pleasant elderly lady in no 
acute distress. She is well developed, well nourished. 
VITAL SIGNS: Temperature 97.5, pulse of 92, blood pressure 
124/80, and respirations of 16. 
CARDIOVASCULAR: She had regular rate and rhythm, no murmurs, 
gallops, or rubs. 
RESPIRATORY: Lungs were clear to auscultation bilaterally. 
SKIN/HEME/LYMPH: No clubbing or cyanosis. Her left lower 
extremity is swollen, about 1+ compared to the right, which has 
none. Peripheral pulses were good. There are no neurocutaneous 
markers. 
NEUROLOGIC: The patient was alert and oriented x3. On mini 
mental status, she scored ___ with one point taken off for 
recall. HEENT: Head was normocephalic, atraumatic. Eyes:  
Pupils equal, round, reactive to light. Extraocular movements 
were intact. Visual fields were full. There was no nystagmus.  
Mouth: Oral mucosa was pink and moist. Tongue was midline, 
palate elevated symmetrically. Neck: Carotids were without 
bruit. Neck movements were full range and nontender. Cranial 
nerves II through IV, VI as already stated above. Cranial nerve 
V: Sensation was intact to light touch over the face. Cranial 
nerve VII: The patient had a symmetric smile, no evidence of 
facial motor weakness. Cranial nerve VIII: Hearing was intact 
to finger rub bilaterally. Cranial nerves IX through XII: No 
dysarthria. Sternocleidomastoids were ___. Shoulder shrug was 
strong. On motor evaluation, on the right deltoid was about 
4+/5, right biceps was about 4+/5, and right triceps was 4+/5, 
right grip was about ___, left deltoid was about ___, biceps 
and 
triceps were 4+/5, and grip was about ___, right iliopsoas was 
about ___, leg extension and leg flexion was about ___, as was 
dorsiflexion and plantar flexion. On the left leg, the iliopsoas 

was about ___, leg extension and leg flexion was about ___. She 

had ___ for dorsiflexion in the left leg, although she could 
lift 
her left toe up and she had about ___ for plantar flexion.  
Reflexes showed 2+ reflexes throughout and she had upgoing toe 
on 
the left. Cerebellar: She had decreased amplitude and velocity 
of fine motor movements on the left arm as well as leg. She was 
unable to do foot tapping well on either foot. The right was 
better than the left. She had difficulty doing heel-knee-shin 
with the left leg. With gait, she needed assistance to stand and 

used a cane to prop herself up. She could not stand with her 
feet together. She did have very unsteady steps and just had to 
sit back down again. 

Exam upon discharge:
Oriented x 3. PERRL. No drift. Tongue midline, face symmetric.
Left leg weakness. Right side full strenghth. Sensation 
decreased slightly on the left. Left leg swelling has improved. 
Incision, clean, dry, intact.
 
Pertinent Results:
___ 05:15AM BLOOD WBC-8.8 RBC-3.35* Hgb-10.9* Hct-31.6* 
MCV-95 MCH-32.6* MCHC-34.5 RDW-15.9* Plt ___
___ 05:00PM BLOOD Neuts-81.7* Lymphs-11.3* Monos-4.4 
Eos-2.4 Baso-0.3
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD Glucose-104 UreaN-20 Creat-0.7 Na-139 
K-4.1 Cl-101 HCO3-28 AnGap-14
___ 05:00PM BLOOD ALT-29 AST-82* AlkPhos-136* TotBili-0.3
___ 05:15AM BLOOD Albumin-3.8 Calcium-9.8 Phos-3.2 Mg-1.6
___ 04:25PM BLOOD Hgb-10.9* calcHCT-33
___ 04:25PM BLOOD freeCa-1.17

MRI Brain ___:
FINDINGS: Since the previous study, the patient has undergone 
resection of 
right posterior frontal lobe, parasagittal rim-enhancing mass. 
Blood products are seen in this region with surrounding edema. 
Following gadolinium, residual enhancement is identified at the 
anterior aspect of the blood products. Subtle meningeal 
enhancement is also identified in the adjacent sulci. Blood 
products are seen in this region. No new areas of enhancement 
are identified. No hydrocephalus or midline shift seen. There is 
pneumocephalus identified with tiny extra-axial collection which 
appear 
postoperative in nature. 
  
IMPRESSION: Status post resection of right posterior frontal 
lobe rim- 
enhancing lesion seen on the prior MRI of ___. Blood products 
are seen 
with residual enhancement anteriorly. Edema is again identified 
without 
change. No hydrocephalus. Pneumocephalus and other postoperative 
findings. 
  
EEG ___:
FINDINGS:  
ABNORMALITY #1: Focal slow transients were seen involving the 
right 
temporal region broadly throughout the tracing. 
ABNORMALITY #2: Although at best, background frequencies in the 
9 Hz 
range were seen, throughout the majority of the tracing, a 
poorly 
modulated ___ Hz mixed theta and alpha frequency background was 
seen. 
BACKGROUND: As above. 
HYPERVENTILATION: Was contraindicated due to the patient's 
history of 
recent brain surgery. 
INTERMITTENT PHOTIC STIMULATION: Could not be obtained as the 
test was 
requested as a portable study. 
SLEEP: No clear sleep or wake transitions were seen. 
CARDIAC MONITOR: Revealed a generally regular rhythm with 
average rate 
of 72 bpm. 
IMPRESSION: This is an abnormal EEG due to the presence of focal 

slowing involving the right temporal region suggesting the 
presence of a 
subcortical abnormality in this area. The slow and disorganized 
background is consistent with a mild to moderate encephalopathy 
of 
toxic, metabolic, or anoxic etiologies. No evidence of ongoing 
epileptogenesis was seen at the time of this tracing. 
  

 
Brief Hospital Course:
Ms ___ was admitted to the neurosurgery service. She had an 
MRI completed, was started on Decadron and had close 
neurological observation. On ___ she underwent a right sided 
cranitomy for tumor removal, post operatively she was noted to 
have hand shacking which was felt to seizure related. An EEG on 
___ showed a presence of focal slowing involving the right 
temporal region, no suggestion of ongoing epileptogenesis. A 
post op MRI showed possible residual enhancement otherwise it 
was normal post op changes. 

While her immediate neurologic exam remained stable relative to 
the pre-operative status, she had suffered two episodes of 
seizure which left the left upper extremity weaker to pre-op. 
The neurology service was consulted.  Consequently, her Keppra 
dose was increased to 1500 mg bid. After the initiation of this 
regiment, the patient became seizure free. She was seizure free 
for 2 days prior to discharge. She was seen by ___ and was found 
to need acute rehab.  The patient was discharged to rehab on 
___ in the afternoon. She will continue her carboplatin that 
was prescribed by her outside oncologist.
 
Medications on Admission:
 Calcium Carbonate 500 mg Tablet, MVI, and Pyridoxine 
 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
2. Insulin Regular Human 100 unit/mL Solution Sig: One (1)  
Injection ASDIR (AS DIRECTED).  
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
5. Atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed.  
7. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed.  
8. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed.  
9. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Pyridoxine 50 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
11. Simethicone 80 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO QID (4 times a day) as needed.  
12. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed.  
13. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H 
(every 8 hours) as needed.  
14. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection BID (2 times a day).  
15. Levetiracetam 500 mg Tablet Sig: Three (3) Tablet PO BID (2 
times a day).  
16. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane PRN (as needed) as needed for sore throat.  
17. Dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours) for 3 days.  
18. Dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Metastic Brain Mass

 
Discharge Condition:
Neurologically stable

 
Discharge Instructions:
Have a friend/family member check your incision daily for 
signs of infection.
Take your pain medicine as prescribed.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
You may wash your hair only after after your wound check with 
Dr ___. Your sutures are dissolvable You may shower before 
this time using a shower cap to cover your head.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

New onset of tremors or seizures.
Any confusion or change in mental status. 
Any numbness, tingling, weakness in your extremities.
Pain or headache that is continually increasing, or not 
relieved by pain medication.
Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
Fever greater than or equal to 101 F.

 
Followup Instructions:
___